US04837227
To a stirring solution of 11.3 g of 11-[β-(dimethylamino)ethylthio]-2-(methylthio)dibenz[b,f]oxepin, free base of Example 21, and 10.0 g of potassium carbonate in 50 ml of methylene chloride is added dropwise a solution of 5.7 g of phenylchloroformate in 50 ml of methylene chloride. After total addition the reaction mixture is stirred at ambient temperature for 24 hours and then evaporated to dryness. The residue is triturated with ether and the ethereal solution is sequentially washed successively with a 10% sodium hydroxide solution and water, dried and filtered and the filtrate evaporated to dryness leaving a yellow oil. The oil is chromatographed through a silica gel column with a methylene chloride eluant to obtain the purified orange oil of 11-[β-(N-methyl-N-phenoxycarbonylamino)ethylthio]-2-(methylthio)-dibenz[b,f]oxepin.

reactant | 11-[β-(dimethylamino)ethylthio]-2-(methylthio)dibenz[b,f]oxepin | 11.3 g | CN(CCSC=1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)SC)C | C19H21NOS2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylchloroformate | 5.7 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 11-[β-(N-methyl-N-phenoxycarbonylamino)ethylthio]-2-(methylthio)-dibenz[b,f]oxepin | CN(C(=O)OC1=CC=CC=C1)CCSC=1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)SC | C25H23NO3S2
